US09233956B2
Step A: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1,1-dioxido-4-thiomorpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to Intermediate 6 using N-{3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (1.5 g, 3.40 mmol), NBS (0.60 g, 3.40 mmol) and 4-thiomorpholinecarbothioamide 1,1-dioxide (0.80 g, 4.12 mmol) the title compound of Step A was obtained (1.88 g, 90% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.94 (br. s., 1H), 8.34 (d, J=5.1 Hz, 1H), 7.59-7.78 (m, 1H), 7.37-7.52 (m, 2H), 7.32 (t, J=7.7 Hz, 1H), 7.25 (t, J=9.1 Hz, 2H), 6.55 (d, J=4.9 Hz, 1H), 4.04 (br. s., 4H), 3.32 (br. s., 4H). m/z (ES+): 617 [M+H]+.

reactant | N-{3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 3.40 mmol, 1.5 g | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C18H11ClF3N3O3S
reactant | NBS | 3.40 mmol, 0.60 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 4-thiomorpholinecarbothioamide 1,1-dioxide | 4.12 mmol, 0.80 g | N1(CCS(CC1)(=O)=O)C(N)=S | C5H10N2O2S2
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1,1-dioxido-4-thiomorpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 90% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCS(CC1)(=O)=O)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H17ClF3N5O4S3
